US09260392B2
In a typical reaction, methyl 5,5,5-trifluoro-4-((4-methoxyphenyl)imino)pent-2-ynoate is mixed with about a 2.5 to 3 fold excess of 4-chlorobenzyl amine and about a 2.5 to 3 fold excess of cesium carbonate in anhydrous terahydrofuran. The mixture is heated at about 80° C. until the reaction is complete. After cooling, an extraction solvent like a halogenated hydrocarbon is added to the mixture along with water. The organic layer is recovered, washed with brine and dried. The solvent is evaporated to provide crude methyl 4-(4-methoxyphenylamino)-5-fluoro-6-(4-chlorophenyl)picolinate.

reactant | methyl 5,5,5-trifluoro-4-((4-methoxyphenyl)imino)pent-2-ynoate | FC(C(C#CC(=O)OC)=NC1=CC=C(C=C1)OC)(F)F | C13H10F3NO3
reactant | 4-chlorobenzyl amine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | terahydrofuran | O1CCCC1 | C4H8O
product | methyl 4-(4-methoxyphenylamino)-5-fluoro-6-(4-chlorophenyl)picolinate | COC1=CC=C(C=C1)NC1=CC(=NC(=C1F)C1=CC=C(C=C1)Cl)C(=O)OC | C20H16ClFN2O3
